US05756507
Step 3A [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]carbamic acid benzyl ester
To a suspension of 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethylamine (150 mg in 1.5 mL methylene chloride) at -78° C. was added benzyl chloroformate (0.08 mL) and diisopropylethyl amine (0.093 mL) and the mixture warmed to 0° C. After 40 minutes, the reaction was quenched by the addition of saturated ammonium chloride, extracted with ethyl acetate and the organic portion dried over sodium sulfate. Purification by flash chromatography on silica gel (hexane:ethyl acetate, 2:1) gave the title compound (220 mg).

reactant | 2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethylamine | 1.5 mL, 150 mg | COC=1C=C(C=CC1OC)C=1NC2=CC=CC=C2C1CCN | C18H20N2O2
reactant | benzyl chloroformate | 0.08 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropylethyl amine | 0.093 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | [2-[2-(3,4-dimethoxyphenyl)-1H-indol-3-yl]ethyl]carbamic acid benzyl ester | 220 mg | C(C1=CC=CC=C1)OC(NCCC1=C(NC2=CC=CC=C12)C1=CC(=C(C=C1)OC)OC)=O | C26H26N2O4
